US07608629B2
N-[6-(1-Methyl-piperidin-4-yloxy)-pyridin-2-yl]-isonicotinamide hydrogen chloride salt
Using a method similar to example 160 using 6-(1-methyl-piperidin-4-yloxy)-pyridin-2-ylamine (preparation 60, 150 mg, 0.724 mmol) and isonicotinoyl chloride hydrochloride (192 mg, 1.08 mmol) yields the title compound (225 mg, 89%). Mass spectrum (ion spray): m/z 313.1 (M+1); Analysis calculated for C17H21N4O2Cl.0.2H2O. Theory: C, 57.93; H, 6.12; N, 15.90. Found: C, 57.78; H, 6.28; N, 15.88. mp=254-256° C.

reactant | 6-(1-methyl-piperidin-4-yloxy)-pyridin-2-ylamine | 0.724 mmol, 150 mg | CN1CCC(CC1)OC1=CC=CC(=N1)N | C11H17N3O
reactant | isonicotinoyl chloride hydrochloride | 1.08 mmol, 192 mg | Cl.C(C1=CC=NC=C1)(=O)Cl
product | N-[6-(1-Methyl-piperidin-4-yloxy)-pyridin-2-yl]-isonicotinamide hydrogen chloride salt | 225 mg, 89% | Cl.CN1CCC(CC1)OC1=CC=CC(=N1)NC(C1=CC=NC=C1)=O | InChI=1S/C17H20N4O2.ClH/c1-21-11-7-14(8-12-21)23-16-4-2-3-15(19-16)20-17(22)13-5-9-18-10-6-13;/h2-6,9-10,14H,7-8,11-12H2,1H3,(H,19,20,22);1H
